US07534894B2
Step 7: [(4′-{[(2-butyl-1-benzofuran-3-yl)carbonyl]amino}[1,1′-biphenyl]-4-yl)oxy]-acetic acid.
1 N NaOH (721 μL, 0.721 mmol) was added under nitrogen to a solution of methyl[(4′-{[(2-butyl-1-benzofuran-3-yl)carbonyl]amino}[1,1′-biphenyl]-4-yl)oxy]acetate (300 mg, 0.656 mmol), prepared in the previous step, in 30 mL of THF plus 10 mL of water at room temperature. After the addition the reaction was stirred at room temperature for 18 h (overnight). The reaction was acidified by the addition of 5 mL of 1 N HCl and then concentrated under reduced pressure. The solid that formed was collected by filtration and dried under reduced pressure to give the title compound (188 mg, 65%) as a white solid, mp 225-227° C.; MS (APCI) m/z 444 [M+H]+. Elemental Analysis for C27H25NO5.0.07 H2O: Calc'd: C, 72.92; H, 5.70; N, 3.15; Found: C, 72.45; H, 5.64; N, 3.06

reactant | NaOH | 0.721 mmol, 1 N, 721 μL | [OH-].[Na+]
reactant | methyl[(4′-{[(2-butyl-1-benzofuran-3-yl)carbonyl]amino}[1,1′-biphenyl]-4-yl)oxy]acetate | 0.656 mmol, 300 mg | COC(COC1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C1=C(OC2=C1C=CC=C2)CCCC)=O | C28H27NO5
reactant | water | 10 mL | O | H2O
reactant | HCl | 1 N, 5 mL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | [(4′-{[(2-butyl-1-benzofuran-3-yl)carbonyl]amino}[1,1′-biphenyl]-4-yl)oxy]-acetic acid | 188 mg, 65% | C(CCC)C=1OC2=C(C1C(=O)NC1=CC=C(C=C1)C1=CC=C(C=C1)OCC(=O)O)C=CC=C2 | C27H25NO5
